US07795262B2
Step 3. Preparation of 2-(4-trifluoromethanesulfonyloxy-phenyl)-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester
To a solution of 2-(4-hydroxy-phenyl)-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester (1.31 g, 4.0 mmol) in anhydrous DCM (30 ml) cooled to 0° C. is added TEA (607 mg, 6.0 mmol, 1.5 eq.), followed by trifluoromethanesulfonic anhydride (1.24 g, 4.4 mmol, 1.1 eq.) added dropwise. After the addition is complete, 4-dimethylaminopyridine (30 mg) is added. The reaction mixture is stirred at 0° C. for 1 hr, then warmed to rt and stirred for an additional 1 hr. Water (30 ml) is added to quench the reaction. The DCM layer is collected, washed with water and brine, dried over sodium sulfate and concentrated. The residue is purified by silica gel flash chromatography (hexane/EtOAc 4:1) to give the title compound. MS (+VE) m/z 460.1 (M++1).

reactant | 2-(4-hydroxy-phenyl)-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester | 4.0 mmol, 1.31 g | C(C)(C)(C)OC(=O)N1CC2=C(N=C(N=C2)C2=CC=C(C=C2)O)CC1 | C18H21N3O3
reactant | trifluoromethanesulfonic anhydride | 4.4 mmol, 1.24 g, 1.1 eq. | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Water | 30 ml | O | H2O
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 30 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(4-trifluoromethanesulfonyloxy-phenyl)-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=C(N=C(N=C2)C2=CC=C(C=C2)OS(=O)(=O)C(F)(F)F)CC1 | C19H20F3N3O5S
